US06239131B1
Preparation of 2-tert-butoxycarbonylamino-3-benzyloxycarbonylaminopropionic acid
2-Amino-3-benzyloxycarbonylaminopropionic acid (4.6 g) prepared according to a known method (Chem. Pharm. Bull., Vol. 7, 616 (1959)) was added to an aqueous solution (100 ml) of sodium carbonate (2.05 g). Di-tert-butyldicarbonate (4.68 g) in tetrahydrofuran (100 ml) was added thereto and the resultant mixture was stirred overnight at room temperature. The mixture was washed with ethyl acetate, and 1N hydrochloric acid was added to the aqueous layer to adjust pH to 3. The resultant mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure, to thereby obtain 6.51 g of the title compound.

reactant | 2-Amino-3-benzyloxycarbonylaminopropionic acid | 4.6 g | NC(C(=O)O)CNC(=O)OCC1=CC=CC=C1 | C11H14N2O4
reactant | sodium carbonate | 100 ml, 2.05 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Di-tert-butyldicarbonate | 4.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-tert-butoxycarbonylamino-3-benzyloxycarbonylaminopropionic acid | 6.51 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CNC(=O)OCC1=CC=CC=C1 | C16H22N2O6
